US05660598
A mixture of N-butylaniline (12.35 parts), anhydrous potassium carbonate (17.1 parts), 3-chloro-2-methylpropene (11.24 parts) and DMF (20 parts) was stirred at 90° C. for 8 hours. The cooled mixture was poured into toluene, washed with water (×2), 1N hydrochloric acid (30 parts) and water (×2). The dried organic phase was evaporated to leave N-butyl-N-(2-methylprop-2-eneyl)aniline (14.3 parts).

reactant | N-butylaniline | C(CCC)NC1=CC=CC=C1 | C10H15N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-2-methylpropene | ClCC(=C)C | C4H7Cl
reactant | DMF | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-butyl-N-(2-methylprop-2-eneyl)aniline | C(CCC)N(C1=CC=CC=C1)CC(=C)C | C14H21N
